US07271153B2
To a solution of 1-methyl 2-benzylsuccinate (0.78 g) in tetrahydrofuran (12 mL) was added borane tetrahydrofuran complex (0.93 mol/L solution in tetrahydrofuran, 3.8 mL) at 0° C. The temperature was raised to room temperature, and the mixture was stirred for 15 hours. To the reaction mixture were added water and potassium carbonate, and the mixture was extracted with diethyl ether. After the organic layer was washed with water and dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. After the residue was dissolved in dichloromethane (20 mL), a Dess-Martin reagent (1,1,1-tri-acetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one)(1.2 g), and the mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. After the organic layer was washed with water and dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. After the residue was dissolved in ethanol (5 mL), hydrazine monohydride (0.14 mL) was added to the solution, and the mixture was heated under reflux for 30 minutes. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1-1/1) to give 4-benzyl-3,4-dihydro-2H-pyridazin-3-one (0.31 g). To a solution of the obtained 4-benzyl-3,4-dihydro-2H-pyridazin-3-one (0.16 g) in ethanol (5 mL-) was added selenium dioxide (0.48 g), and the mixture was heated under reflux for 41 hours. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added diethyl ether, and the resulting precipitated crystals were collected by filtration and dried under reduced pressure to give 4-benzyl-2H-pyridazin-3-one (0.083 g).

reactant | 4-benzyl-3,4-dihydro-2H-pyridazin-3-one | 0.16 g | C(C1=CC=CC=C1)C1C(NNC=C1)=O | C11H12N2O
reactant | selenium dioxide | 0.48 g | [Se](=O)=O | O2Se
reactant | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-benzyl-2H-pyridazin-3-one | 0.083 g | C(C1=CC=CC=C1)C=1C(NN=CC1)=O | C11H10N2O
